US05569669
Stage B: 5-hydroxybenzodioxane
At 0° C., boron tribromide (5.6 cm3) is added slowly to a solution of 5-methoxy-1,4-benzodioxane (5 g, 30.1 mmol) in 25 cm3 of CH2Cl2. The mixture is stirred at 0° C. for 15 min, the solution is then hydrolysed with 10 cm3 of water and the product is extracted with CH2Cl2. Purification on a silica column (eluent: 100% CH2Cl2) enables 4.49 g of a colorless oil to be obtained.

reactant | boron tribromide | 5.6 cm3 | B(Br)(Br)Br | BBr3
reactant | 5-methoxy-1,4-benzodioxane | 30.1 mmol, 5 g | COC1=CC=CC=2OCCOC21 | C9H10O3
solvent | CH2Cl2 | 25 cm3 | C(Cl)Cl | CH2Cl2
product | 5-hydroxybenzodioxane | OC1=CC=CC=2OCCOC21 | C8H8O3
